US09304394B2
5-(3-(2-(carboxymethoxy)-2-oxoethyl)-4-methoxyphenyl)-dibenzothiophenium chloride
Triflic acid (trifluoromethansulfonic acid) (0.5 mL) was added to a solution of 5-(4-methoxy-3-(2-(2-((2-methyladamantan-2-yl)oxy)-2-oxoethoxy)-2-oxoethyl)phenyl)-dibenzothiophenium chloride (3.00 g, 5.07 mmol) in DCM (50 mL) and stirred at 25° C. for 48 h. The precipitate was filtered, washed with MTBE:Acetone (50 mL) and MTBE (2×100 mL) to afford the title compound (2.05 g, 91%) as a white solid. 1H NMR (300 MHz, (CD3)2SO) δ: 12.5 (brs, COOH), 8.52 (d, J=7.8 Hz, 2H), 8.29 (d, J=8.1 Hz, 2H), 7.95 (t, J=7.5 Hz, 2H), 7.67-7.79 (m, 3H), 7.38 (vis s, 1H), 7.22 (d, J=8.1 Hz, 1H), 4.51 (s, 2H), 3.81 (s, 3H), 3.66 (s, 2H).

reactant | Triflic acid | 0.5 mL | OS(=O)(=O)C(F)(F)F | CHF3O3S
reactant | 5-(4-methoxy-3-(2-(2-((2-methyladamantan-2-yl)oxy)-2-oxoethoxy)-2-oxoethyl)phenyl)-dibenzothiophenium chloride | 5.07 mmol, 3.00 g | [Cl-].COC1=C(C=C(C=C1)[S+]1C2=C(C3=C1C=CC=C3)C=CC=C2)CC(=O)OCC(=O)OC2(C3CC1CC(CC2C1)C3)C
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-(3-(2-(carboxymethoxy)-2-oxoethyl)-4-methoxyphenyl)-dibenzothiophenium chloride | 2.05 g, 91% | [Cl-].C(=O)(O)COC(CC=1C=C(C=CC1OC)[S+]1C2=C(C3=C1C=CC=C3)C=CC=C2)=O | InChI=1S/C23H18O5S.ClH/c1-27-19-11-10-16(12-15(19)13-23(26)28-14-22(24)25)29-20-8-4-2-6-17(20)18-7-3-5-9-21(18)29;/h2-12H,13-14H2,1H3;1H
